US07923450B2
a) Methyl 5-[1-dimethylamino-methylidene]-4-oxo-tetrahydro-pyran-3-carboxylate
Methyl 4-oxo-tetrahydro-pyran-3-carboxylate (74 mg, 0.47 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (101 mg) as a red oil which was used directly in the next step. MS ISP (m/e): 214.4 [(M+H)+].

reactant | Methyl 4-oxo-tetrahydro-pyran-3-carboxylate | 0.47 mmol, 74 mg | O=C1C(COCC1)C(=O)OC | C7H10O4
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | Methyl 5-[1-dimethylamino-methylidene]-4-oxo-tetrahydro-pyran-3-carboxylate | 101 mg | CN(C=C1C(C(COC1)C(=O)OC)=O)C | C10H15NO4
